### PR TITLE
feat: define Artin braid groups

### PR DESCRIPTION
**Pull request by hannahfechtner**
Define the Artin braid group on infinitely many strands. Includes a toGroup function which defines a function out of the braid group to any other group (given a function which satisfies the braid relations)

(more to come in this file; next up: Artin braid groups on finitely many strands)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,82 @@
...
+#  Braid Groups
+
+Artin's braid group on infintely many strands
+
+## Main definitions
+
+* `BraidGroupInf ` is the braid group on infinitely many strands, defined as a PresentedGroup
+  on the braid relations
+
+* `braid_group n` is the braid group on n+1 strands (thus n generators) - coming in the next PR
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean:19]: Please move this to `## TODO` for now.

File: Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,82 @@
...
+
+## Main results
+* none in this PR
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean:22]: Please add this when they arrive.
```suggestion
```

File: Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,82 @@
...
+namespace BraidGroup
+
+/-- the set of relations on FreeGroup ℕ corresponding to vaild braid moves -/
+def braid_rels_inf : Set (FreeGroup ℕ) :=
+  { r | ∃ i j : ℕ , 1 = Nat.dist i j ∧ r = .of i * .of j * .of i *
+    (.of j)⁻¹ * (.of i)⁻¹ * (.of j)⁻¹} ∪
+  { r | ∃ i j : ℕ, 2 ≤ Nat.dist i j ∧ r = .of i * .of j * (.of i)⁻¹ * (.of j)⁻¹}
+
+/-- Artin's braid group on infinitely many strands -/
+def BraidGroupInf := PresentedGroup braid_rels_inf
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean:41]: In other files, this group will have the name `BraidGroup.BraidGroupInf`. Is that your intention? I think we should have `BraidGroupInf` and `BraidGroup` as two namespaces. And so this definition should live in the root namespace.

File: Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,82 @@
...
+## Tags
+braid group
+
+## TODO
+
+-/
+
+namespace BraidGroup
+
+/-- the set of relations on FreeGroup ℕ corresponding to vaild braid moves -/
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean:34]: Please use the docstring to state the relations in a notation that is maybe a bit easier to read than the Lean notation with all the `.of`s.

File: Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean (hunk 2 above)
Comment (hannahfechtner) [reply Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean:22]: will do! (trying to break things down into little pieces, and this is the downside)

**Comment by jcommelin** [comment]
@hannahfechtner You closed some of the conversations, but it seems the code didn't change. Did you forget to push?

**Comment by hannahfechtner** [comment]
> @hannahfechtner You closed some of the conversations, but it seems the code didn't change. Did you forget to push?

indeed. clearly I shouldn't be fussing with github past my bedtime!

File: Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,83 @@
...
+Artin's braid group on infintely many strands
+
+## Main definitions
+
+* `BraidGroupInf ` is the braid group on infinitely many strands, defined as a PresentedGroup
+  on the braid relations
+
+## Main results
+* will add in as they get PR'd
+
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean:21]:
```suggestion
```

File: Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,83 @@
...
+## Tags
+braid group
+
+## TODO
+* `braid_group n` is the braid group on n+1 strands (thus n generators)
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean:26]:
```suggestion
* `BraidGroup n` is the braid group on n+1 strands (thus n generators)
```

File: Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,83 @@
...
+
+-/
+
+
+/-- the set of relations on FreeGroup ℕ corresponding to valid braid moves. generators are indexed
+by natural numbers. commutativity holds if the generators are at least 2 apart. if two generators
+a and b are adjacent, then aba is congruent to bab -/
+def braid_rels_inf : Set (FreeGroup ℕ) :=
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean:34]:
```suggestion
def braidRelsInf : Set (FreeGroup ℕ) :=
```

File: Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,83 @@
...
+  unfold BraidGroupInf; infer_instance
+
+namespace BraidGroupInf
+
+/-- the ith generator of the infinite braid group, whose geometric interpretation is crossing
+the ith strand over the (i+1)th strand -/
+def σ (k : ℕ) : BraidGroupInf := PresentedGroup.of k
+
+theorem BraidGroupInf.braid {i j : ℕ} (h : 1 = Nat.dist i j): σ i * σ j * σ i =
+    σ j * σ i * σ j := by
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean:52]:
```suggestion
theorem braid {i j : ℕ} (h : 1 = Nat.dist i j) : σ i * σ j * σ i = σ j * σ i * σ j := by
```
I would expect `h : Nat.dist i j = 1`. That direction reads a bit more natural. And you could use `h.symm` in the proof. But I'll leave that choice up to you.

File: Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,83 @@
...
+  symm; rw [← mul_inv_eq_one]
+  exact QuotientGroup.eq.mpr <| Subgroup.subset_normalClosure <| Or.inl <| Exists.intro i <|
+    Exists.intro j <| ⟨h, rfl⟩
+
+theorem BraidGroupInf.comm {i j : ℕ} (h : 2 ≤ Nat.dist i j) : σ i * σ j = σ j * σ i := by
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean:57]: Because of the namespace, you now get duplication in the names
```suggestion
private theorem comm {i j : ℕ} (h : 2 ≤ Nat.dist i j) : σ i * σ j = σ j * σ i := by
```

File: Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,83 @@
...
+section toGroup
+variable {G : Type*} [Group G] {f : ℕ → G}
+
+/-- The extension of a map `f : α → G` that satisfies the braid relations to a group homomorphism
+from `BraidGroupInf → G`. -/
+def toGroup (h : ∀ r ∈ braid_rels_inf, FreeGroup.lift f r = 1) : BraidGroupInf →* G :=
+  PresentedGroup.toGroup h
+
+@[simp]
+theorem toGroup.of (h : ∀ r ∈ braid_rels_inf, FreeGroup.lift f r = 1) {x : ℕ} :
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean:75]:
```suggestion
theorem toGroup_σ (h : ∀ r ∈ braid_rels_inf, FreeGroup.lift f r = 1) {x : ℕ} :
```

Comment (jcommelin) [reply Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean:75]: Alternatively, consider renaming `σ` to `of`. But again, I don't have a strong opinion there.

File: Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean (hunk 8 above)
Comment (hannahfechtner) [reply Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean]: Actually I decided that since PresentedGroup generates an equivalence relation, I only need one direction of the braid relations (symmetry will take care of the rest), so I've fixed it, just in a different way :)

File: Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean (hunk 9 above)
Comment (hannahfechtner) [reply Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean]: fixed it! I plan to use this theorem outside this file (often), so if it's alright, I'd rather not make it private

File: Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean (hunk 10 above)
Comment (hannahfechtner) [reply Mathlib/GroupTheory/SpecificGroups/BraidGroup/Basic.lean]: fixed! Unless there's strong objection, I personally like the \sigma. A bit longer to type, sure, but it matches the literature nicely *and* helps me know at a glance that it's a Braid monoid/group

**Comment by joelriou** [comment]
I think we would like a more general definition of the braid group of a Coxeter matrix. The API could be similar to what we have in `GroupTheory.Coxeter.Basic`. The idea is that instead of `(σ i * σ j)^m = 1`, we would require here that `σ i * σ j * σ i * ... = σ j * σ i * σ j * ...` where there are `m` factors on each side (if `m = 2`, this means that `σ i` and `σ j` commutes, and for `m = 3`, this is the standard braid relation). Then, the general braid group will surject to the associated Coxeter group (where we have the additional relations `σ i * σ i = 1`). Doing so, we would get the `n`-braid group, and also the infinite variant.

**Comment by hannahfechtner** [comment]
> I think we would like a more general definition of the braid group of a Coxeter matrix. The API could be similar to what we have in `GroupTheory.Coxeter.Basic`. The idea is that instead of `(σ i * σ j)^m = 1`, we would require here that `σ i * σ j * σ i * ... = σ j * σ i * σ j * ...` where there are `m` factors on each side (if `m = 2`, this means that `σ i` and `σ j` commute, and for `m = 3`, this is the standard braid relation). Then, the general braid group will surject to the associated Coxeter group (where we have the additional relations `σ i * σ i = 1`). Doing so, we would get the `n`-braid group, and also the infinite variant.

I understand the part about the braid group being a special case of an Artin-Tits group. I'll have to look more closely at the Coxeter matrix and how it implement it. It might take me a bit of time, being the end of the semester, but I'll get to it!

**Comment by jcommelin** [comment]
See also https://github.com/bolito2/DemazureOperatorsLean

**Comment by hannahfechtner** [comment]
> I think we would like a more general definition of the braid group of a Coxeter matrix. The API could be similar to what we have in `GroupTheory.Coxeter.Basic`. The idea is that instead of `(σ i * σ j)^m = 1`, we would require here that `σ i * σ j * σ i * ... = σ j * σ i * σ j * ...` where there are `m` factors on each side (if `m = 2`, this means that `σ i` and `σ j` commute, and for `m = 3`, this is the standard braid relation). Then, the general braid group will surject to the associated Coxeter group (where we have the additional relations `σ i * σ i = 1`). Doing so, we would get the `n`-braid group, and also the infinite variant.

Okay, I've sat down to have a look at it, and have a rough implementation. Could you explain why the matrix must be symmetric? Since it's begin used to define a presented group, won't closing the relation into an equivalence class add symmetry in?

Ex: would something like this work, or should I make `M_braid` symmetric:

```
variable (M : α → α → ℕ)

def flipflop (a b : α) (k : ℕ) :=
  match k with
  | 0 => 1
  | Nat.succ n => FreeGroup.of a * artin_tits b a n

def artin_tits : α → α → FreeGroup (α) := fun i j => flipflop i j (M i j) * (flipflop j i (M i j))⁻¹

def M_braid (i j : ℕ) : ℕ :=
  match j-i with
  | 0 => 1
  | Nat.succ n =>
    match n with
    | 0 => 3
    | Nat.succ _ => 2

def braid_rels_coexeter : Set (FreeGroup ℕ) := Set.range (Function.uncurry (artin_tits M_braid))

def braid_group_inf := PresentedGroup braid_rels_coexeter
```

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
